US05580883
To a suspension of 4-(4-nitro-3-methylphenyloxy)piperidine hydrochloride (2,8 g) in methylene chloride (20 ml) were added dropwise triethylamine (2.1 g) and di-tert-butyl dicarbonate (2.7 g) and the mixture was stirred with ice-cooling for 20 minutes. Water was added to the reaction mixture, which was extracted with methylene chloride (50 ml×3). The combined extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was washed with ethyl ether to obtain 1-tert-butyloxycarbonyl-4-(4-nitro-3-methylphenyloxy)piperidine (3.6 g) as yellow crystals, m.p. 104°-106° C.

reactant | 4-(4-nitro-3-methylphenyloxy)piperidine hydrochloride | 2,8 g | Cl.[N+](=O)([O-])C1=C(C=C(C=C1)OC1CCNCC1)C
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-tert-butyloxycarbonyl-4-(4-nitro-3-methylphenyloxy)piperidine | 3.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])C | C17H24N2O5
